US07183306B2
tert-Butyl 2-(4-acetylphenoxy)ethylcarbamate
To a solution of 4-hydroxyacetophenone (10 g) and 2-tert-butoxycarbonylaminoethylbromide (24.7 g) in N,N-dimethylformamide (50 ml) was added potassium iodide (12.2 g) and potassium carbonate (15.2 g).

reactant | 4-hydroxyacetophenone | 10 g | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | 2-tert-butoxycarbonylaminoethylbromide | 24.7 g | C(C)(C)(C)OC(=O)NCCBr | C7H14BrNO2
reactant | potassium iodide | 12.2 g | [I-].[K+]
reactant | potassium carbonate | 15.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 2-(4-acetylphenoxy)ethylcarbamate | C(C)(=O)C1=CC=C(OCCNC(OC(C)(C)C)=O)C=C1 | C15H21NO4
